US04226866
Sodium hydride (4.5 g.; 57% in mineral oil) is placed under a nitrogen atmosphere and the mineral oil removed with petroleum ether. Dimethylsulfoxide (30 ml.) is then added and the mixture is stirred at 70° C. for two hours and then cooled to 10° C. Methyltriphenylphosphonium bromide (35.7 g.) dissolved in dimethylsulfoxide (50 ml.) is added dropwise under nitrogen to afford a yellowish-orange ylide solution. 1-Chloro-3-acetoxy-2-propanone (15 g.) in dimethylsulfoxide (20 ml.) is then added and the reaction mixture is stirred until the color of the ylide disappears and then is stirred an additional hour at room temperature. The reaction mixture is dissolved in hexane (200 ml.) and washed three times with water. The organic phase is filtered to remove triphenylphosphine oxide and then dried over magnesium sulfate. The solvent is evaporated and the residue is distilled under vacuum to afford 1-chloro-2-methylene-3-acetoxypropane.

reactant | Sodium hydride | 4.5 g | [H-].[Na+]
reactant | 1-Chloro-3-acetoxy-2-propanone | 15 g | ClCC(COC(C)=O)=O | C5H7ClO3
reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1-chloro-2-methylene-3-acetoxypropane | ClCC(COC(C)=O)=C | C6H9ClO2
